US06949542B2
(4-Chloro-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J24) (466 mg, 1.5 mmol) and 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K12) (467 mg, 1.5 mmol) according to the general procedure M. Obtained as an orange oil (360 mg, 44%).

reactant | (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.5 mmol, 466 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)N)=O | C12H14ClF3N2O2
reactant | 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.5 mmol, 467 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C19H21NO3
product | (4-Chloro-2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C27H25ClF3N3O4
